Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
jaundice

 
Major Surgical or Invasive Procedure:
ERCP on ___

 
History of Present Illness:
___ with hx of moderate dementia, hypertension, s/p remote
CCY with recurrent retained stones presenting with upper
abdominal and back pain, jaundice and confusion. Pt is unable to
provide a history overnight ___ AMS, and demographics do not 
link
to Partners record via ___. History is obtained
from review of limited records that accompany patient, and
discussion with his wife by phone. Pt's wife reports that 2
months prior to presentation, pt developed recurrent
choledocholithiasis for which he underwent an ERCP. He 
apparently
has recurrent episodes every ___ years since his CCY. His biliary
stent was reoportedly retrieved on ___ at ___. The day prior
to presentation, pt endorsed anorexia, generally feeling unwell.

His wife brought him to ___ for further 
evaluation.
VS at ___ were: 97.5, 57, 147/64, 97% RA. Labs
revealed WBC 18.0, Hb 14.5, Plt 175, Lactate 1.5, TnT<0.046, Na
137, K 3.9, Cl 101, BUN 1, Cr 0.90, Ca 9.3, ALT 170, AST 188, Tb
___ 4.6, Dbili 3.3, Alk phos 356. CT abd/pelvis without contrast
revealed "intra and extrahepatic biliary dilation with calcified
filling defects in the distal CBD measuring 2.0x1.1 cm 
consistent
with choledocholithiasis," and confirmed that he is s/p CCY. Pt
was transferred to ___ ED for ERCP.  

In the ___ ED:
VS 97.4, 74, 161/76, 98% RA
Labs notable for BUN 21, Cr 1.0
WBC 22.4, Hb 13.6, plt 169
ALT 154
AST 150
Alk phos 310
Tbili 6.8
BCx sent
Received IVF and pip/___

On arrival to the floor, pt is unable to provide a history or
full ROS in detail ___ dementia. He denies pain, and is unsure
why he is at the hospital.

ROS: 10 point review of system limited by dementia

 
Past Medical History:
Alzheimers' dementia
Hypertension
Choledocholithiasis s/p CCY
 
Social History:
___
Family History:
Noncontributory to retained stones in remnant
duct

 
Physical Exam:
Admission Physical Exam:
VS: 99.0 PO 161 / 72 61 20 95 ra 
GEN: alert and interactive, elderly male, comfortable, no acute
distress, pleasantly confused
HEENT: PERRL, icteric sclera, conjunctiva pink, oropharynx
without lesion or exudate, moist mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Distant heart sounds, regular rate and rhythm
without murmurs, rubs, or gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly, negative
___ sign
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: alert and oriented to person, unable to name the 
hospital,
the year is "20.... something." States that he is in the 
hospital
"to have my eyes checked." CN II-XII intact, strength is ___ in
UE and ___ bilaterally 
PSYCH: normal mood and affect
 
Pertinent Results:
___ 11:00PM BLOOD WBC-22.4*# RBC-4.18* Hgb-13.6* Hct-39.7* 
MCV-95# MCH-32.5* MCHC-34.3 RDW-13.7 RDWSD-47.9* Plt ___
___ 07:02AM BLOOD WBC-19.6* RBC-3.88* Hgb-12.8* Hct-36.8* 
MCV-95 MCH-33.0* MCHC-34.8 RDW-14.0 RDWSD-48.0* Plt ___
___ 11:00PM BLOOD Neuts-93.3* Lymphs-2.0* Monos-3.7* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-20.92* AbsLymp-0.45* 
AbsMono-0.83* AbsEos-0.00* AbsBaso-0.02
___ 11:00PM BLOOD ___ PTT-26.5 ___
___ 11:00PM BLOOD Glucose-155* UreaN-21* Creat-1.0 Na-141 
K-4.2 Cl-98 HCO3-26 AnGap-17
___ 07:02AM BLOOD Glucose-133* UreaN-20 Creat-0.9 Na-143 
K-3.8 Cl-101 HCO3-26 AnGap-16
___ 11:00PM BLOOD ALT-154* AST-150* AlkPhos-310* 
TotBili-6.8*
___ 07:02AM BLOOD ALT-136* AST-101* AlkPhos-282* 
TotBili-8.4*
___ 11:00PM BLOOD Lactate-3.3*

___ 06:15AM BLOOD WBC-11.5* RBC-4.22* Hgb-13.5* Hct-39.8* 
MCV-94 MCH-32.0 MCHC-33.9 RDW-14.0 RDWSD-49.0* Plt ___
___ 06:15AM BLOOD Neuts-79.8* Lymphs-13.1* Monos-5.8 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-9.17*# AbsLymp-1.50 
AbsMono-0.66 AbsEos-0.03* AbsBaso-0.03
___ 06:15AM BLOOD Glucose-82 UreaN-20 Creat-1.0 Na-140 
K-3.4 Cl-98 HCO3-25 AnGap-17
___ 06:15AM BLOOD ALT-102* AST-55* LD(LDH)-155 AlkPhos-273* 
TotBili-8.3*

ERCP IMPRESSION:
•The scout film was normal with evidence of cholecystectomy 
surgical clips.  
•Evidence of a previous sphincterotomy was found at the ampulla. 
 
•The bile duct was deeply cannulated with the balloon.  
•A small amount of contrast was injected in setting of 
cholangitis and multiple filling defects were found. The CBD was 
10 mm in diameter.  
•The biliary tree was swept with a 11.5 mm balloon starting at 
the bifurcation with pus and stone fragments removed 
successfully.  
•Given evidence of persistent stones, a 10 to 12 mm CRE balloon 
sphincteroplasty was performed. Additional balloon catheter 
sweeps were performed and all visible stones were removed 
successfully.  
•The CBD and CHD were swept repeatedly until no further stones 
were seen.  
•Given inability to perform occlusion cholangiogram in setting 
of cholangitis, a ___ x 5 cm double pigtail plastic biliary 
stent was placed given history of persistance stones.  
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically.  
•Otherwise normal ercp to third part of the duodenum
 

 
Brief Hospital Course:
___ with hx of moderate dementia, hypertension,
s/p remote CCY with recurrent retained stones presenting with
upper abdominal and back pain, jaundice, confusion, found to 
have
biliary obstruction.

# Biliary obstruction: Cholestasis by labs, with reports of 
upper
abdominal and back pain, confusion in the setting of underlying
dementia, history of recurrent episodes of retained stones in
remnant duct. He is afebrile, but elevated WBC to 22.4 after
recent stent retrieval raised concern for ascending cholangitis; 
therefore, he was placed on Zosyn empirically starting in the 
ER.  The morning after admission, he was noted to be more back 
to baseline with regards to his mental status and energy level 
per her son who was at the bedside.  

He went for ERCP in the afternoon of ___ which found an 
obstruction in the biliary system.  Stone fragments and pus were 
removed and a ___ x 5 cm double pigtail plastic biliary stent 
was placed given history of persistent stones.  His diet 
advanced without complications and he experienced no pain, 
nausea, vomiting, and mental status was back to baseline at the 
time of discharge.  He was changed to Cipro and Flagyl for an 
additional 4 days, making a total of 5 days of therapy.  He will 
need to retuen in ___ weeks for repeat ERCP and possible stent 
removal.      

# Hypertension: His home antihypertensives were hend in the 
setting of infection on admission and were restarted on 
discharge.  

# Dementia: Continued home donepezil and memantine; he did well 
with family was at the bedside, and other times, next to the 
nursing station.  

# Advance Care Planning/Code status: FULL code - pt "would not
want to be a vegetable" per his wife on admission.  

# Contact: HCP is wife, ___ ___, ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Memantine 10 mg PO DAILY 
2. Donepezil 20 mg PO QHS 
3. Lisinopril 20 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Ursodiol 600 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*14 Tablet Refills:*0 
3.  Donepezil 20 mg PO QHS  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  Memantine 10 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Ursodiol 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, you were admitted to ___ for an infection 
in your bile duct system known as cholangitis.  You had a scope 
called ERCP that opened the blockage and removed gallstones 
where a stent was placed to keep this area open. You will need 
to take antibiotics for 5 days to complete treatment for this 
infection.  
 
Followup Instructions:
___